US04407927
In 25 ml of anhydrous ethanol were dissolved 17.7 g of p-diethylaminobenzaldehyde and 2.9 g of acetone, and 1.5 ml of 10% aqueous NaOH was added dropwise to the resulting solution, after which the resulting mixture was subjected to reaction under reflux for 8 hours. The reaction mixture was cooled, and the crystals thus precipitated were collected by filtration and then recrystallized from toluene, to obtain 7.7 g of 1,3-bis(4'-diethylaminobenzal)acetone (m.p. 168° C.).

reactant | p-diethylaminobenzaldehyde | 17.7 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
reactant | acetone | 2.9 g | CC(=O)C | C3H6O
reactant | NaOH | 1.5 ml | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1,3-bis(4'-diethylaminobenzal)acetone | 7.7 g | C(C)N(C1=CC=C(C=CC(=O)C=CC2=CC=C(C=C2)N(CC)CC)C=C1)CC | C25H32N2O
